* TSPC D Flip-Flop Pre-Layout Simulation

.include TSMC_180nm.txt

.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param L_min  = {2 * LAMBDA}
.param W_N    = {10 * LAMBDA}
.param W_P    = {20 * LAMBDA}

.param AS_P = {5 * W_P * LAMBDA}
.param AD_P = {5 * W_P * LAMBDA}
.param PS_P = {2 * 5 * LAMBDA + W_P}
.param PD_P = {2 * 5 * LAMBDA + W_P}
.param AS_N = {5 * W_N * LAMBDA}
.param AD_N = {5 * W_N * LAMBDA}
.param PS_N = {2 * 5 * LAMBDA + W_N}
.param PD_N = {2 * 5 * LAMBDA + W_N}

.global vdd gnd
Vdd vdd 0 {SUPPLY}

Vclk clk 0 PULSE(0 {SUPPLY} 0 50p 50p 1n 2n)

Vd D 0 PWL(0 0 2.85n 0 2.9n {SUPPLY} 3.15n {SUPPLY} 3.2n 0)

Mp1 mid1 D    vdd vdd CMOSP W={W_P} L={L_min} AS={AS_P} AD={AD_P} PS={PS_P} PD={PD_P}
Mp2 n1   clk  mid1 vdd CMOSP W={W_P} L={L_min} AS={AS_P} AD={AD_P} PS={PS_P} PD={PD_P}
Mn1 n1   D    gnd gnd CMOSN W={W_N} L={L_min} AS={AS_N} AD={AD_N} PS={PS_N} PD={PD_N}

Mp3 n2   n1   vdd vdd CMOSP W={W_P} L={L_min} AS={AS_P} AD={AD_P} PS={PS_P} PD={PD_P}
Mn2 n2   clk  mid2 gnd CMOSN W={W_N} L={L_min} AS={AS_N} AD={AD_N} PS={PS_N} PD={PD_N}
Mn3 mid2 n1   gnd gnd CMOSN W={W_N} L={L_min} AS={AS_N} AD={AD_N} PS={PS_N} PD={PD_N}

Mp4 Q    n2   vdd vdd CMOSP W={W_P} L={L_min} AS={AS_P} AD={AD_P} PS={PS_P} PD={PD_P}
Mn4 Q    n2   mid3 gnd CMOSN W={W_N} L={L_min} AS={AS_N} AD={AD_N} PS={PS_N} PD={PD_N}
Mn5 mid3 clk  gnd gnd CMOSN W={W_N} L={L_min} AS={AS_N} AD={AD_N} PS={PS_N} PD={PD_N}

.subckt InverterLoad in out
    M1 out in vdd vdd CMOSP W={20*LAMBDA} L={2*LAMBDA}
    M2 out in gnd gnd CMOSN W={10*LAMBDA} L={2*LAMBDA}
.ends InverterLoad

XLoad Q Q_load_out InverterLoad
Cload Q_load_out 0 10f

.tran 10p 6n

.meas tran tcq_rise TRIG v(clk) VAL={SUPPLY/2} RISE=2 TARG v(Q) VAL={SUPPLY/2} RISE=1
.meas tran t_setup TRIG v(D) VAL={SUPPLY/2} RISE=1 TARG v(clk) VAL={SUPPLY/2} RISE=2
.meas tran t_hold TRIG v(clk) VAL={SUPPLY/2} RISE=2 TARG v(D) VAL={SUPPLY/2} FALL=1

.control
    run
    set curplottitle = "TSPC DFF Pre-Layout Simulation"
    set hcopypscolor = 1
    set color0 = white
    set color1 = black
    plot v(clk)+4 v(D)+2 v(Q) title 'Clock, Data, Output'
    hardcopy tspc_dff.eps v(clk)+4 v(D)+2 v(Q)
.endc

.end